US07238724B2
(5R)-1-(chloroacetyl)-5-propynyl-L-prolinamide
To a stirred solution of (5R)-1-(chloroacetyl)-5-propynyl-L-proline (1.10 g, 4.8 mmol) in CH2Cl2 (24 mL) at −15° C. under nitrogen was added 4-methylmorpholine (0.64 mL, 5.76 mmol), and then isobutyl chloroformate (0.81 mL, 6.24 mmol) over 10 minutes. A white precipitate formed. The reaction mixture was stirred at −15° C. under nitrogen for 30 minutes, and a solution of NH3 in dioxane (0.5M, 29 mL, 14.4 mmol) was added. The reaction mixture was stirred at −15° C. for 30 minutes, warmed to room temperature, and stirred at that temperature for 16 hours. The reaction mixture was diluted with 1M HCl to ˜pH 4 and extracted with ethyl acetate (3×). The extracts were combined, washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. Purification by flash column chromatography (60-75% ethyl acetate/hexane) provided the titled compound. MS (DCI) m/z 229 (M+H)+.

reactant | (5R)-1-(chloroacetyl)-5-propynyl-L-proline | 4.8 mmol, 1.10 g | ClCC(=O)N1[C@H](C(=O)O)CC[C@@H]1C#CC | C10H12ClNO3
reactant | 4-methylmorpholine | 5.76 mmol, 0.64 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 6.24 mmol, 0.81 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NH3 | N | H3N
reactant | dioxane | 14.4 mmol, 0.5M, 29 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 24 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1M | Cl | ClH
product | (5R)-1-(chloroacetyl)-5-propynyl-L-prolinamide | ClCC(=O)N1[C@H](C(=O)N)CC[C@@H]1C#CC | C10H13ClN2O2
